US06544976B1
(2S)-1-(α-Toluenesulfonyl)azetidine-2-carboxylic acid
To a solution of (2S)-Methyl-1-(α-toluenesulfonyl)azetidine-2-carboxylate from Reference Example 7 (378.4 mg; 1.40 mmol) in methanol (7.0 mL) was added 1N LiOH in water (2.6 mL) at about 0° C. The mixture was warmed to about room temperature and stirred under argon overnight. The pH was adjusted to about pH 1 by adding 1N HCl and then the mixture was diluted with water and extracted into ethyl acetate. The organic layer was dried over magnesium sulfate and then concentrated to give 335.7 mg (94% yield) of the product as a white solid. 1H NMR (CDCl3) δ 2.37-2.57 (m, 2H); 3.21-3.31 (m, 1H); 4.01 (q, 1H, J=8.6); 4.33 (d, 1H, J=13.7); 4.44 (d, 1H, J=13.7); 4.98 (dd, 1H, J=9.4, 8.6); 7.34-7.53 (series of m, 5H).

reactant | (2S)-Methyl-1-(α-toluenesulfonyl)azetidine-2-carboxylate | COC(=O)[C@H]1N(CC1)S(=O)(=O)CC1=CC=CC=C1 | C12H15NO4S
reactant | LiOH | 1N | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 7.0 mL | CO | CH4O
solvent | water | 2.6 mL | O | H2O
product | (2S)-1-(α-Toluenesulfonyl)azetidine-2-carboxylic acid | 335.7 mg, 94% yield | C1(=CC=CC=C1)CS(=O)(=O)N1[C@@H](CC1)C(=O)O | C11H13NO4S
